US04851535
In 7 ml of anhydrous tetrahydrofuran was dissolved 200 mg of 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl chloride, and 1 ml of an anhydrous tetrahydrofuran solution containing 45 mg of imidazole and 65 mg of triethylamine was dropped into the resulting solution at -20° to -10° C., after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. Subsequently, 150 mg of magnesium ethoxycarbonylacetate was added thereto at room temperature, and the resulting mixture was subjected to reaction under reflux for 30 minutes, after which the reaction mixture was added to a mixture of 10 ml of ethyl acetate and 10 ml of water. The pH of the mixture was adjusted to 2.0 with 2N hydrochloric acid. The organic layer was separated, and 5 ml of water was added thereto, after which the pH thereof was adjusted to 7.5 with saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed successively with 5 ml of water and 5 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 1 ml of diisiopropyl ether, after which crystals were collected by filtration to obtain 190 mg (yield 81.7%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate having a melting point of 148°-149° C.

reactant | 2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl chloride | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)Cl)C=C(C(=N1)OC)F | C13H8ClF3N2O2
reactant | imidazole | 45 mg | N1C=NC=C1 | C3H4N2
reactant | magnesium ethoxycarbonylacetate | 150 mg | C(C)OC(=O)CC(=O)[O-].[Mg+2].C(C)OC(=O)CC(=O)[O-]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ether | 1 ml | CCOCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-methoxynicotinoyl]acetate | 190 mg, yield 81.7% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OC)F | C17H15F3N2O4
